US05256675
A mixture of 2-amino-4-methyl-5-(2-pyridylthio)thiazole (1.7 g) and 3-chloroperbenzoic acid (1.8 g) in a mixture of chloroform (20 ml) and dichloromethane (50 ml) was stirred at 5° C. for 3.5 hours. The reaction mixture was washed with aqueous sodium bicarbonate and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 100 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-4-methyl-5-(2-pyridylsulfinyl)thiazole (0.95 g, yield: 52.2 %). mp: 190°-193° C. (dec.)

reactant | 2-amino-4-methyl-5-(2-pyridylthio)thiazole | 1.7 g | NC=1SC(=C(N1)C)SC1=NC=CC=C1 | C9H9N3S2
reactant | 3-chloroperbenzoic acid | 1.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-amino-4-methyl-5-(2-pyridylsulfinyl)thiazole | 0.95 g, yield: 52.2 % | NC=1SC(=C(N1)C)S(=O)C1=NC=CC=C1 | C9H9N3OS2
